US20010047031A1
(2RS, 3RS) and (2RS, 3SR)-2-{2-[3-(4-Hydroxy-benzenesulfonyl)-pyrrolidin-1-yl]-ethyl}-1,2,3,4-tetrahydro-naphthalen-2-ol
The title compound, MS: m/e=402.4 (M+H+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and (RS)-2-(2-bromo-ethyl)-1,2,3,4-tetrahydro-naphthalen-2-ol.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | (RS)-2-(2-bromo-ethyl)-1,2,3,4-tetrahydro-naphthalen-2-ol | BrCCC1(CC2=CC=CC=C2CC1)O | C12H15BrO
product | (2RS, 3SR)-2-{2-[3-(4-Hydroxy-benzenesulfonyl)-pyrrolidin-1-yl]-ethyl}-1,2,3,4-tetrahydro-naphthalen-2-ol | OC1=CC=C(C=C1)S(=O)(=O)C1CN(CC1)CCC1(CC2=CC=CC=C2CC1)O | C22H27NO4S
